US08455646B2
Preparation of (2-ethyl-phenyl amino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C61)
PS-DCC (962 mg, 1.37 mmol, loading: 1.33 mmol/g) is suspended in THF (10 mL). HOBT (210 mg, 1.37 mmol), (2-ethyl-phenylamino)-phenyl-acetic acid hydrochloride (I60) (200 mg, 0.68 mmol), and (R)-quinuclidin-3-ol (262 mg, 2.06 mmol) are added and the mixture is shaken at RT overnight. PS-DCC is filtered off and washed with THF and the filtrate is evaporated under reduced pressure. The resulting residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer is separated, dried over Na2SO4, filtered and evaporated. The residue is first purified by flash chromatography (DCM/MeOH=9/1) and then by preparative HPLC. The fractions containing the product are pooled, concentrated under vacuum, basified with sat. NaHCO3 and extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and evaporated to afford the title compound as a colorless oil (52 mg, 21% yield, mixture of diastereoisomers).

reactant | DCC | 1.37 mmol, 962 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.37 mmol, 210 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-ethyl-phenylamino)-phenyl-acetic acid hydrochloride | 0.68 mmol, 200 mg | Cl.C(C)C1=C(C=CC=C1)NC(C(=O)O)C1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 2.06 mmol, 262 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-ethyl-phenyl amino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 52 mg, 21% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=C(C=CC=C2)CC)=O | C23H28N2O2
